reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]=[C:4]([C:5]([H:11])([H:12])[H:13])[H:9])[H:10])([H:6])([H:7])[H:8],83.8652536319984
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2](/[C:3](=[N:5]\[C:4]([C:6](=[O:7])[H:12])([H:10])[H:11])[H:9])[H:8],76.4846256030173
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:6](=[C:5])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9],17.80316154513408
[C:1]([O:2][C:3]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:5](=[C:4])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],53.014594112040214
[C:1]([C@:2]1([H:9])[C:3]([H:11])([H:12])/[C:4]1=[N:5]/[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],74.33815426334351
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[O:4][C@@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:14])[H:19],67.55388188448849
[C:1]([O:2][C:3](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:11])[H:14]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],44.9219017903488
[C:1]([C@:2]([C:3](=[O:4])[H:11])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[H:12][H:13]>>[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],66.218635513786
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2](=[O:3])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17].[H:10][H:11],104.507917414124
[C+:1](=[C:2]([H:5])[H:6])[C:3]#[C-:4]>>[C:1](#[C:2][H:5])[C:3]#[C:4][H:6],63.00055894451702
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:12])=[C:6]=[C:7]([H:11])[H:13])([H:9])[H:10])[H:8],69.6127393688695
[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C:3](=[C:4]=[O:5])([H:11])[H:12].[C:6]([O:7][H:15])([H:8])([H:13])[H:14].[O:1]=[C:2]([H:9])[H:10],88.9893350229384
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]1[C@@:2]2([H:9])[C:3]([H:10])([H:11])[C@@:4]2([H:12])[O:5][C@@:6]1([O:7][H:8])[H:13],48.332175064535
[C:1]([C:2][C:4]([O:5][C:3]([H:9])([H:10])[H:11])([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[O:5]1)([H:6])([H:7])[H:8],34.530662642997996
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4][C:6]([H:16])([H:17])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:12])([H:13])([H:14])[H:15],92.7552547130875
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([C:2](=[N:3][N:4]([H:9])[H:10])[N+:6]#[C-:5])([H:7])[H:8],90.9414508429924
[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:7].[O:4]=[C:5]([O:6][H:8])[H:12]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],47.28033869975093
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[O:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13],117.78768370581
[C:1]([O:2][C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([O:7][H:19])[H:18]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],23.3334362328696
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:8])([N:5]([C:4](=[C:3]([H:11])[H:12])[C:7]([H:14])([H:15])[H:16])[O:6][H:13])([H:9])[H:10],102.279656311689
[C:1](=[N+:2]1[N:3]([H:8])[C:4]([H:10])=[N:5][N-:6]1)([H:7])[H:9]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],23.302530912079703
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9].[H:12][H:13],86.2593020705873
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5][O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],27.019090475789405
[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7]>>[O-:1][C:2](=[C+:3][C:4]1=[C:5]=[C:6]1[H:8])[H:7],53.7575055883026
[C:1]([C:2](=[O:3])[C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C@:2]12[O:3][C@@:5]1([H:9])[C:4]2)([H:6])([H:7])[H:8],70.8792798721792
